US07091228B2
To a solution of cis-2-(4-bromobenzoyl)cyclopropanecarboxylic acid (10.6 g, 36.63 mmol) in MeOH (250 mL) was added 2,2-dimethoxypropane (9.54 g, 91.59 mmol) and HCl (4.0 M in dioxane, 3.50 mL). The resulting solution was stirred at 40° C. for 3 days, and then evaporated to dryness. The resulting residue was purified by flash chromatography (Biotage Flash 40M) using 15 to 25% ethyl acetate in hexanes to afford methyl cis-2-(4-bromobenzoyl)-cyclopropanecarboxylate (10.34 g, 99%). 1H NMR (400 MHz, CD2Cl2) δ 1.39 (m, 1H), 1.82 (m, 1H), 2.34 (m, 1H), 2.77 (m, 1H), 3.54 (s, 3H), 7.65 (m, 2H), 7.89 (m, 2H).

reactant | cis-2-(4-bromobenzoyl)cyclopropanecarboxylic acid | 36.63 mmol, 10.6 g | BrC1=CC=C(C(=O)[C@@H]2[C@@H](C2)C(=O)O)C=C1 | C11H9BrO3
reactant | 2,2-dimethoxypropane | 91.59 mmol, 9.54 g | COC(C)(C)OC | C5H12O2
reactant | HCl | 4.0 M, 3.50 mL | Cl | ClH
solvent | MeOH | 250 mL | CO | CH4O
product | methyl cis-2-(4-bromobenzoyl)-cyclopropanecarboxylate | 10.34 g, 99% | BrC1=CC=C(C(=O)[C@@H]2[C@@H](C2)C(=O)OC)C=C1 | C12H11BrO3
